US09102637B2
(c) 2-(isoquinolin-3-ylamino)-5-(4-methoxybenzamido)thiazole-4-carboxamide
To a mixture of p-anisoyl chloride (0.4 mL, 3.0 mmol) in pyridine (2 mL) was added dropwise a solution of 5-amino-2-(isoquinolin-3-ylamino)-thiazole-4-carboxamide (0.20 g, 0.70 mmol) in pyridine (3 mL), and the mixture was stirred overnight at rt. The solvent was evaporated. The residue was triturated with MeOH, and the resulting solids were collected to give 42 mg (28% yield) of the titled compound.

reactant | p-anisoyl chloride | 3.0 mmol, 0.4 mL | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | 5-amino-2-(isoquinolin-3-ylamino)-thiazole-4-carboxamide | 0.70 mmol, 0.20 g | NC1=C(N=C(S1)NC=1N=CC2=CC=CC=C2C1)C(=O)N | C13H11N5OS
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 2-(isoquinolin-3-ylamino)-5-(4-methoxybenzamido)thiazole-4-carboxamide | 42 mg, 28% yield | C1=NC(=CC2=CC=CC=C12)NC=1SC(=C(N1)C(=O)N)NC(C1=CC=C(C=C1)OC)=O | C21H17N5O3S
